US08048897B2
(2) Synthesis of (1R,2R,3S,4R,5R)-1-[5-(4-Ethylbenzyl)-2-fluorophenyl]-5-(hydroxymethyl)cyclohexane-1,2,3,4-tetraol
To a mixture solution of (1R,2R,3S,4R,5R)-2,3,4-trisbenzyloxy-5-benzyloxymethyl-1-[5-(4-ethylbenzyl)-2-fluorophenyl]cyclohexanol (271 mg, 0.361 mmol) in methanol-THF (1:1) mixed solvent (20 mL), a 20% palladium hydroxide catalyst (40 mg) was added thereto. The mixture was stirred under a hydrogen atmosphere for 30 minutes, and then the catalyst was filtered off. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=methanol:methylene chloride (1:10)] to obtain the title compound (44.6 mg, 31.6%).

reactant | (1R,2R,3S,4R,5R)-2,3,4-trisbenzyloxy-5-benzyloxymethyl-1-[5-(4-ethylbenzyl)-2-fluorophenyl]cyclohexanol | 0.361 mmol, 271 mg | C(C1=CC=CC=C1)O[C@H]1[C@](C[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(O)C1=C(C=CC(=C1)CC1=CC=C(C=C1)CC)F | C50H51FO5
solvent | methanol THF | CO.C1CCOC1
catalyst | palladium hydroxide | 40 mg | [OH-].[Pd+2].[OH-]
product | (1R,2R,3S,4R,5R)-1-[5-(4-Ethylbenzyl)-2-fluorophenyl]-5-(hydroxymethyl)cyclohexane-1,2,3,4-tetraol | 44.6 mg, 31.6% | C(C)C1=CC=C(CC=2C=CC(=C(C2)[C@]2([C@@H]([C@H]([C@@H]([C@H](C2)CO)O)O)O)O)F)C=C1 | C22H27FO5
